US07696240B2
4-Methoxy-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 4-methoxy-1H-indole-2-carboxylic acid methyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a pale yellow solid. MS: 330.1 ([M−H]−).

reactant | 4-methoxy-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC(=C2C1)OC | C11H11NO3
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 4-Methoxy-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | COC1=C2C=C(N(C2=CC=C1)CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H17NO3
